Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
IVC filter placed

 
History of Present Illness:
Ms. ___ is a ___ with triple negative metastatic 
breast cancer (BRCA +) with known brain, lung, bone mets who 
presented to the ED with several days of dyspnea associated with 
nausea and vomiting. She has been on enoxaparin for DVT tx but 
has missed doses recently. In ED, found to be hypoxic and 
tachycardic in sinus. CTA large right proximal PE. No clear e/o 
Right heart strain. Trp pending. MASCOT team evaluating for 
thrombolysis. She was started on heparin w/o bolus for concern 
of brain mets. She is currently on chemo, last treatment 2 weeks 
ago. Received vancomycin and cefepime in ED for possible post 
obstructive PNA in RUL. 

In the ED, initial vitals: 97.8 ___ 28 87% RA
- Exam notable for dyspnea
- Labs were notable for: WBC: 5.7, Hgb: 12.4, Chem-10 wnl, 
proBNP: 40, AST/ALT 38:78, trop neg x1
- Imaging: CTA: Extensive pulmonary embolism involving the 
distal most aspect of the right pulmonary artery extending into 
the artery supplying the right upper and lower lobes. No CT 
evidence of right heart strain 
- Patient was given: dialudid 1mg x3, ondansetron 4mg, 
cefepime/vanc, lorazepam 0.5mg, heparin gtt  
- Consults: MASCOT 

On arrival to the MICU, patient is anxious, but breathing 
comfortably on the ___. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY  
She initially presented in early ___ with a multicentric 
high-grade triple-negative left breast cancer. The largest focus 
of invasive cancer was 5 cm. There was no lymphovascular 
invasion and her four sentinel lymph nodes sampled at the time 
of mastectomy in ___ were negative. The contralateral 
prophylactic right mastectomy was negative pathologically.  
 BRCA testing showed a BRCA1 mutation.  
 Thus, she had an advanced left breast cancer which was 
multifocal but no lymph node spread while the right breast was 
negative. Following recovery from her mastectomy and her 
bilateral ___ flap reconstructions, a port was inserted and she 
began dose-dense cyclophosphamide and doxorubicin in early ___. She received four doses of dose-dense cyclophosphamide and 
doxorubicin followed by weekly paclitaxel. Dr. ___ was 
consulted, but did not feel that she required post mastectomy 
radiation therapy based on free margins, the absence of 
lymphovascular invasion and the absence of nodal involvement.  
 Following her chemotherapy there was no additional systemic 
therapy given because of her triple-negative status. We did 
strongly encourage her to have a prophylactic bilateral BSO, but 
she opted to defer that following completion of her other 
therapy. In fact, this was never done and she had a long 
interval where she did not ___ for routine followup here.  
 She was recently seen for shortness of breath. Re-staging 
showed recurrent disease.  
 
PAST MEDICAL HISTORY:  
HCV, no prior treatment  
h/o liver failure due to Acetaminophen toxicity  
h/o eating disorder  
 

 
Social History:
___
Family History:
Mother - colon cancer  
Father - ___ Body dementia  
 
 
Physical Exam:
ON ADMISSION
====================
VITALS: 99.4 ___ 23 95% on ___ FIO2 40% 15L
GENERAL: On ___, mildly tachypenic in no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: CTA anteriorly 
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs,  
gallops  
ABD: soft, tender in the LUQ upon palpation. +BS. No 
organomegaly.  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or  
edema  
SKIN: No lesions.  
NEURO: A&O x3. CN II-XII intact.  

DISCHARGE: 
EXAM:
Gen: Lying in bed in no apparent distress
Telemetry shows sinus tachycardia HR: 100s
Vitals: 
97.8 Axillary 130 / 82 100 18 97 RA 
HEENT: Anicteric, eyes conjugate, MMM, no JVD
Cardiovascular: RRR no MRG, nl. S1 and S2
Pulmonary: Lung fields clear to auscultation throughout
Gastroinestinal: Soft, mild TTP in the ___ region, 
but
no rebound or guarding, non-distended, bowel sounds present
MSK: No edema
Skin: WWP, 2+ distal pulses, some skin changes that are noted on
the right leg more prominently than the left leg, slightly
elevated, not particularly erythematous, blanches with pressure,
not tender, appears somewhat like stretch marks, but in an
unusual location (lateral and medial aspects of distal leg and
distal aspect of proximal leg); similar skin findings are not
found on examination of arms, chest, abdomen, or back.

 
Pertinent Results:
ON ADMISSION
___ 02:30PM BLOOD WBC-5.7 RBC-4.60 Hgb-12.4 Hct-37.6 MCV-82 
MCH-27.0 MCHC-33.0 RDW-17.5* RDWSD-49.0* Plt ___
___ 02:30PM BLOOD Neuts-79.4* Lymphs-13.0* Monos-7.0 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-4.54# AbsLymp-0.74* 
AbsMono-0.40 AbsEos-0.00* AbsBaso-0.01
___ 02:30PM BLOOD ___ PTT-33.5 ___
___ 02:30PM BLOOD Glucose-114* UreaN-9 Creat-0.5 Na-141 
K-3.9 Cl-100 HCO3-27 AnGap-18
___ 02:30PM BLOOD ALT-79* AST-38 AlkPhos-88 TotBili-0.8
___ 02:30PM BLOOD Albumin-4.0
___ 01:29AM BLOOD Calcium-9.1 Phos-4.0 Mg-1.4*
___ 10:50PM BLOOD Type-ART FiO2-40 pO2-74* pCO2-50* pH-7.38 
calTCO2-31* Base XS-2 Intubat-NOT INTUBA Comment-VENTIMASK
___ 03:18PM BLOOD Lactate-0.9

IMAGING:
CTA ___ pulmonary embolism involving the 
distal most aspect of the right pulmonary artery extending into 
the arteries supplying the right upper and lower lobes.  No CT 
evidence of right heart strain but suggest correlation with 
echocardiogram given extension of thrombus. 
2.  Heterogeneous mass in the left anterior mediastinum with 
loss of fat 
planes along the pericardium and pulmonary artery as previously 
present on CT dated ___ consistent with metastatic 
disease.  Elevation of the left hemidiaphragm with associated 
atelectasis is unchanged. 
3.  Pulmonary artery is large in caliber suggestive of, but 
nondiagnostic for pulmonary hypertension. 

ECHO (___):
Overall left ventricular systolic function is normal (LVEF=55%) 
with apical hyperkinesis. Right ventricular chamber size and 
free wall motion are normal. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
mild pulmonary artery systolic hypertension. Compared with the 
prior study (images reviewed) of ___ this was a focused 
study and there does not appear to have been a significant 
change in RV function. Mild pulmonary hypertension is seen

___ Duplex (___):
1. Acute deep vein thrombosis seen in the right lower leg in the 
two right 
gastrocnemius veins and also in the two right peroneal veins. 
2. Fibrin strand noted within the left greater saphenous vein 
could represent 
a valve or possibly a fibrin strand from remote 
thrombophlebitis.  Note is 
made on today's exam that the left greater saphenous vein 
demonstrates 
complete compression, however, with no evidence of acute 
thrombosis. 

 
Brief Hospital Course:
Ms. ___ is a ___ y/o woman with a history of BRCA+, triple 
negative metastatic breast cancer (mets to lungs and brain) and 
enlarging L lung mass admitted to the ICU for pulmonary embolism 
and hypoxia in setting of non-compliance with lovenox.

#Pulmonary embolism - CTA with evidence of extensive pulmonary 
embolism involving the distal most aspect of the right pulmonary 
artery extending into the artery supplying the right upper and 
lower lobes. No CT evidence echocardiographic evidence of R 
heart strain was reassuring. She was started on a heparin gtt. 
MASCOT evaluated patient, did not recommend any 
lytic/thrombectomy intervention. LENIs revealed DVT in RLE. She 
underwent procedure for IVC filter placement to prevent further 
thromboembolic events while patient still has symptomatic PE. 
The patient should return to ___ to 
have the IVC filter removed in 1 month. She was transitioned 
from heparin gtt to enoxaparin 120 mg SC BID on ___.  We did 
extensive counseling on the importance of adherence to the 
lovenox regimen and the patient was able to verbalize 
understanding and agreed to continue the medication at home.

#Hypoxia: Patient's underlying hypoxia likely multifactorial in 
nature given pulmonary embolism, and lung mass. Received vanc 
and cefepime in the emergency department due to concern for 
post-obstructive pneumonia. Held off on antibiotics as patient 
did not have fever, leukocytosis. She was on ___ 
initially and weaned to nasal cannula.  She did not require 
additional antibiotics during the remainder of her hospital 
course.  Her O2 requirement gradually improved.  Ambulatory sats 
were >95% prior to discharge on RA.   She will not require 
supplemental O2 with ambulation/activity at home.

#Metastatic Breast CA: patient with triple negative, BRCA+ 
metastatic CA as above. likely contributory to current state. 
Stable on chemotherapy at this time.  Dr. ___ (___ 
On___) was notified of the patient's admission. She will 
follow up with Dr. ___ next week. NP ___ was 
informed of her discharge.

#Orthostasis
She had 2 episodes of orthostatis that resolved with fluids.

CHRONIC/STABLE/RESOLVED PROBLEMS:  
#Left Lung Mass: As above, patient has an enlarging lung mass 
felt to be metastasis from her breast CA. She is candidate for 
chemotherapy as above in addition to possible XRT.  

#Brain metastases: known hemorrhagic brain mets s/p hippocampus 
sparing whole brain irradiation. Currently on steroid therapy 
(taper). Continued dexamethasone 2mg PO daily and seizure ppx 
Topamax

#Pain control: patient with chronic headaches and back pain from 
her mets and is on dilaudid PRN.  

#Anxiety: patient has significant anxiety, stemming largely from 
her extensive cancer as well as her dyspnea. She revealed to us 
that she has not been taking venlafaxine or ativan at home for 
anxiety.  Says that she misinformed her MD re: venlafaxine's 
ineffectiveness, and the dose was increased, but that she 
continued not to take it.

# Hypertension: patient's home anti-hypertensives were initially 
held in setting of PE with tachycardia.

# ADHD: Continued home adderall
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amphetamine-Dextroamphetamine XR 40 mg PO DAILY 
2. Dexamethasone 2 mg PO DAILY 
Tapered dose - DOWN 
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. LORazepam 1.5 mg PO QHS 
5. LORazepam 0.5 mg PO DAILY 
6. Topiramate (Topamax) 200 mg PO QHS 
7. Acetaminophen 650 mg PO ASDIR 
8. Enoxaparin Sodium 120 mg SC Q12H 
9. Ondansetron ___ mg PO Q8H:PRN nausea 
10. Pantoprazole 40 mg PO Q24H 
11. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN Pain - Severe 
12. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, wheezing 
13. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
14. Venlafaxine XR 375 mg PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB, wheezing  
4.  Amphetamine-Dextroamphetamine XR 40 mg PO DAILY  
5.  Dexamethasone 2 mg PO DAILY 
Tapered dose - DOWN  
6.  Docusate Sodium 100 mg PO BID:PRN constipation  
7.  Enoxaparin Sodium 120 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time  
8.  HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN Pain - Severe  
9.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
10.  Ondansetron ___ mg PO Q8H:PRN nausea  
11.  Topiramate (Topamax) 200 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Hypoxic respiratory failure due to Acute PE
RLE DVT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to the hospital due to shortness of breath and 
severe hypoxia that was caused by a pulmonary embolus (blood 
clot to your lungs).  This was most likely the result of not 
taking your enoxaparin (Lovenox) at home to treat the DVT in 
your leg.  You were treated in the ICU with a continuous 
infusion of heparin, and an IVC filter was placed to help reduce 
the risk of additional pulmonary emboli.  Your breathing and 
oxygen levels improved with this treatment.  You have been 
resumed on enoxaparin (Lovenox) and it is critical that you 
continue to take this medication as prescribed to continue to 
treat your pulmonary emboli and the DVT in your legs.  Do not 
stop taking enoxaparin unless instructed to do so by your 
physician.

You will also need to have the IVC filter removed in 1 month.  
The interventional radiology team will contact you to arrange 
this.

Regarding your chemotherapy, please follow-up with Dr. ___ as 
planned.

Regarding your anti-anxiety medications (lorazepam and 
venlafaxine).  You informed us that you have not been taking 
these at home, and thus refused them in the hospital, so they 
were not given and they have been removed from your medication 
list upon discharge.

It was a pleasure caring for you while you were in the hospital, 
and we wish you a full and speedy recovery.

Sincerely,
The ___ Medicine Team
 
Followup Instructions:
___